US04391805
4-(4-Acetylpiperazin-1-ylmethyl)-2,6-dimethylphenol
A solution of 35.8 g=0.2 mole of 2,6-dimethyl-4-(N,N-dimethylaminomethyl)-phenol and 25.6 g=0.2 mole of acetylpiperazine in 100 ml of xylene is boiled under reflux for 5 hours, in the course of which nitrogen is passed through the solution. After cooling, the precipitate is filtered off, washed with ethyl acetate and dried over phosphorus pentoxide in vacuo. This gives 46.1 g (88% of theory), melting point: 150°-151° C.

reactant | 2,6-dimethyl-4-(N,N-dimethylaminomethyl)-phenol | 0.2 mole | CC1=C(C(=CC(=C1)CN(C)C)C)O | C11H17NO
reactant | acetylpiperazine | 0.2 mole | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-Acetylpiperazin-1-ylmethyl)-2,6-dimethylphenol | C(C)(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)C)O)C | C15H22N2O2
